US05174991
50 g of monocetylphosphoric acid and 100 g of ethanol were placed in a 500 ml reaction vessel. Further, a solution of 6.29% of 96% sodium hydroxide (purity was taken into consideration by calculating it from the degree of neutralization determined by titration) dissolved in 200 g of ionexchanged water was added thereto. After the temperature was elevated to 80° C., it was confirmed that they were clearly dissolved. The solution was continuously stirred for 30 minutes. A solution of 22.3 g of zinc sulfate heptahydrate dissolved in 100 g of ion-exchanged water was added dropwise thereto to carry out a salt exchange reaction. After the completion of the dropwise addition, the mixture was stirred for 30 minutes. 9.30 g of an aqueous solution of 33.33% sodium hydroxide was added dropwise thereto, to thereby adjust the pH of the reaction mixture to 5. Further, the mixture was stirred for one hour. After the completion of the reaction, the reaction mixture was cooled and the product was recovered by filtration, washed with water and dried, to obtain 51.2 g of the particles of sodium zinc monocetylphosphate.

reactant | monocetylphosphoric acid | 50 g | C(CCCCCCCCCCCCCCC)OP(O)(O)=O | C16H35O4P
reactant | ethanol | 100 g | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | zinc sulfate heptahydrate | 22.3 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Zn+2]
solvent | water | 200 g | O | H2O
product | sodium zinc monocetylphosphate | C(CCCCCCCCCCCCCCC)OP(=O)([O-])[O-].[Zn+2].[Na+] | InChI=1S/C16H35O4P.Na.Zn/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-21(17,18)19;;/h2-16H2,1H3,(H2,17,18,19);;/q;+1;+2/p-2
